US08026257B2
(±)-tert-Butyl 4-((1-(5-cyano-2-((2-(trimethylsilyl)ethoxy)methyl)-2H-indazol-7-yl)ethoxy)methyl)-4-(4-fluorophenyl)piperidine-1-carboxylate.
(±)-tert-Butyl 4-((1-(5-bromo-2-((2-(trimethylsilyl)ethoxy)methyl)-2H-indazol-7-yl)ethoxy)methyl)-4-(4-fluorophenyl)piperidine-1-carboxylate (75 mg, 0. 113 mmol), tetrakis(triphenylphosphine) palladium(0) (13.1 mg, 0.011 mmol) and cyanozinc (20.7 mg, 0.226 mmol) were combined in dry N,N-dimethylformamide (2 mL) in a microwave tube and sealed. After flushing the mixture with nitrogen, the mixture was heated at 120° C. for 1 h via microwave. After cooling to room temperature, the reaction mixture was concentrated, dissolved in ethyl acetate and washed with water and brine, concentrated and purified by flash chromatography on silica gel (20% EtOAc/Hex) to afford 21 mg (30.5%) as an oil. LC/MS (HPLC method 2): tR=3.265 min, 609.18(MH)+.

reactant | (±)-tert-Butyl 4-((1-(5-bromo-2-((2-(trimethylsilyl)ethoxy)methyl)-2H-indazol-7-yl)ethoxy)methyl)-4-(4-fluorophenyl)piperidine-1-carboxylate | 113 mmol, 75 mg | BrC1=CC2=CN(N=C2C(=C1)C(C)OCC1(CCN(CC1)C(=O)OC(C)(C)C)C1=CC=C(C=C1)F)COCC[Si](C)(C)C | C32H45BrFN3O4Si
reactant | cyanozinc | 0.226 mmol, 20.7 mg | C(#N)[Zn]
solvent | N,N-dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
catalyst | tetrakis(triphenylphosphine) palladium(0) | 0.011 mmol, 13.1 mg | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | (±)-tert-Butyl 4-((1-(5-cyano-2-((2-(trimethylsilyl)ethoxy)methyl)-2H-indazol-7-yl)ethoxy)methyl)-4-(4-fluorophenyl)piperidine-1-carboxylate | C(#N)C1=CC2=CN(N=C2C(=C1)C(C)OCC1(CCN(CC1)C(=O)OC(C)(C)C)C1=CC=C(C=C1)F)COCC[Si](C)(C)C | C33H45FN4O4Si
